US07645764B2
8-Methyl-2-methylsulfanyl-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenyl]-8H-pyrido[2,3-d]pyrimidin-7-one was treated with OXONE™ following the procedure of step 3 of Example 1, and the resulting sulfonyl compound was treated with 4-amino-tetrahydropyran using the procedure of step 4 of Example 1, to give 8-methyl-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenyl]-2-(tetrahydro-pyran-4-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one: MS (M+H)=418, MP=214.9-216.0° C.

reactant | 8-Methyl-2-methylsulfanyl-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenyl]-8H-pyrido[2,3-d]pyrimidin-7-one | CN1C(C(=CC2=C1N=C(N=C2)SC)C2=C(C=CC(=C2)C2=NN=CN2)C)=O | C18H16N6OS
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | 4-amino-tetrahydropyran | NC1CCOCC1 | C5H11NO
product | 8-methyl-6-[2-methyl-5-(4H-[1,2,4]triazol-3-yl)-phenyl]-2-(tetrahydro-pyran-4-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | CN1C(C(=CC2=C1N=C(N=C2)NC2CCOCC2)C2=C(C=CC(=C2)C2=NN=CN2)C)=O | C22H23N7O2
